US06552022B1
4′-Isopropyl-6-methyl-biphenyl-2-carboxylic Acid [4-(4-carbamoylmethyl-piperazin-1-yl)-pheny]-amide
To a solution of 4′-isopropyl-6-methyl-biphenyl-2-carboxylic acid (4-piperazin-1-yl-phenyl)-amide (206 mg) in acetone (20 mL) containing K2CO3 (206 mg) was added 2-bromo-acetamide (100 mg) and the mixture was heated at reflux for 16 hours. After cooling at room temperature the salts were removed by filtration, washed with acetone and the filtrate was evaporated under reduced pressure. The residue was purified by flash chromatography eluting with CH2Cl2/MeOH (93/7) and the solid obtained was recrystallized from CH2Cl2/diisopropyl ether to give the title compound (190 mg) as white crystals.

reactant | 4′-isopropyl-6-methyl-biphenyl-2-carboxylic acid (4-piperazin-1-yl-phenyl)-amide | 206 mg | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1C(=C(C=CC1)C)C1=CC=C(C=C1)C(C)C | C27H31N3O
reactant | K2CO3 | 206 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-acetamide | 100 mg | BrCC(=O)N | C2H4BrNO
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4′-Isopropyl-6-methyl-biphenyl-2-carboxylic Acid [4-(4-carbamoylmethyl-piperazin-1-yl)-pheny]-amide | 190 mg | C(N)(=O)CN1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1C(=C(C=CC1)C)C1=CC=C(C=C1)C(C)C | C29H34N4O2
